US08039479B2
To a solution of 4-(5-isopropoxy-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester generated in the previous step in 3 mL of DCM is added TFA (3 mL). The reaction mixture is stirred at room temperature for 1 h. After concentration, water (5 mL) is added to the crude reaction mixture, the resulting mixture is neutralized to pH=8 by adding NaHCO3, and the product is extracted with DCM. The organic extracts are dried over Na2SO4, filtered and concentrated in vacuo to give crude 5-isopropoxy-6-nitro-2-piperidin-4-yl-isoindole-1,3-dione, which is directly used in the next step without further purification.

reactant | 4-(5-isopropoxy-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC(=C(C=C2C1=O)OC(C)C)[N+](=O)[O-])=O | C21H27N3O7
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-isopropoxy-6-nitro-2-piperidin-4-yl-isoindole-1,3-dione | C(C)(C)OC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)C1CCNCC1)=O | C16H19N3O5
